US09260439B2
Step 1: Preparation of tert-butyl 3-({6-chloro-5-(2-hydroxyethyl)-2-[(3S)-3-methylmorpholin-4-yl]pyrimidin-4-yl}amino)azetidine-1-carboxylate
A solution of 2-{4,6-dichloro-2-[(3S)-3-methylmorpholin-4-yl]pyrimidin-5-yl}ethanol (as prepared in Preparation 2)(0.652 g, 2.23 mmol) and 3-amino-azetidine-1-carboxylic acid tert-butyl ester (0.5 g, 2.9 mmol) in DMSO (10.0 mL) was treated with DIPEA (0.7 mL, 4 mmol) and heated at 75° C. for 5 days in a sealed tube. The mixture was poured into a flask containing water and the resulting solids were collected by filtration and rinsed with water. The solids were taken up in DCM, dried over MgSO4 and filtered. The filtrate was purified directly by silica gel chromatography using a gradient of 25-100% EtOAc/heptane as eluent to give 0.823 g (86%) of the title compound as a crisp foam. 1H NMR (400 MHz, DMSO-d6) δ 7.30 (d, J=5.6 Hz, 1 H), 4.71 (t, J=5.2 Hz, 1 H), 4.62-4.53 (m, 1 H), 4.47-4.40 (m, 1 H), 4.13-4.04 (m, 3 H), 3.89-3.78 (m, 3 H), 3.66 (d, J=11.4 Hz, 1 H), 3.55-3.44 (m, 3 H), 3.36 (dt, J=11.7, 2.9 Hz, 1 H), 3.04 (dt, J=12.9, 3.7 Hz, 1 H), 2.69 (t, J=6.9 Hz, 2 H), 1.39 (s, 9 H), 1.14 (d, J=6.7 Hz, 3 H).

reactant | 2-{4,6-dichloro-2-[(3S)-3-methylmorpholin-4-yl]pyrimidin-5-yl}ethanol | 2.23 mmol, 0.652 g | ClC1=NC(=NC(=C1CCO)Cl)N1[C@H](COCC1)C | C11H15Cl2N3O2
reactant | 3-amino-azetidine-1-carboxylic acid tert-butyl ester | 2.9 mmol, 0.5 g | C(C)(C)(C)OC(=O)N1CC(C1)N | C8H16N2O2
reactant | DIPEA | 4 mmol, 0.7 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | water | O | H2O
solvent | DMSO | 10.0 mL | CS(=O)C | C2H6OS
product | tert-butyl 3-({6-chloro-5-(2-hydroxyethyl)-2-[(3S)-3-methylmorpholin-4-yl]pyrimidin-4-yl}amino)azetidine-1-carboxylate | 0.823 g, 86% | ClC1=C(C(=NC(=N1)N1[C@H](COCC1)C)NC1CN(C1)C(=O)OC(C)(C)C)CCO | C19H30ClN5O4
